US07790745B2
To a solution of 2-(tert-butoxycarbonyl)-6-hydroxy-1,2,3,4-tetrahydroisoquinoline-1-carboxylic acid (7.4 g, 25.3 mmol) in THF (40 mL) was added LiOH.H2O (1.06 g, 25.3 mmol). The reaction mixture was stirred at room temperature for 40 min. Me2SO4 (1.19 mL, 12.63 mmol) was added and the reaction was brought to reflux for 3 h. The reaction was cooled down to room temperature and THF was removed. The residue was diluted with CH2Cl2 (150 mL), washed with H2O (2×30 mL), brine (30 mL), dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on ISCO (120 g) with 0-50% ethyl acetate in hexanes over 40 minutes to yield 2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate as a pale yellowish foam (3.56 g, 46%). This racemic mixture was separated by Chiral preparative HPLC using chiralpak OD 20μ column (5×50 cm, eluting with 5% (EtOH/MeOH (50:50))/Heptane with flow rate 50 mL/min). The later eluted peak is the desired (R)-2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate as a white foam (1.1 g, 31%). HPLC retention time (Method B)=3.04 min. 1H NMR (400 MHz, CDCl3) δ ppm 1.48 (d, 9H), 2.67-2.99 (m, 2H), 3.59-3.74 (m, 1H), 3.70 (s, 3H), 3.74-3.86 (m, 1H), 5.35 (s, 0.5H), 5.51 (s, 0.5H), 5.70 (s, 0.5H), 5.76 (s, 0.5H), 6.64 (s, 1H), 6.67-6.76 (m, 1H), 7.31 (d, J=8.6 Hz, 1H).

reactant | 2-(tert-butoxycarbonyl)-6-hydroxy-1,2,3,4-tetrahydroisoquinoline-1-carboxylic acid | 25.3 mmol, 7.4 g | C(C)(C)(C)OC(=O)N1C(C2=CC=C(C=C2CC1)O)C(=O)O | C15H19NO5
reactant | LiOH.H2O | 25.3 mmol, 1.06 g | O[Li].O
reactant | Me2SO4 | 12.63 mmol, 1.19 mL | COS(=O)(=O)OC | C2H6O4S
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 2-tert-butyl 1-methyl 6-hydroxy-3,4-dihydroisoquinoline-1,2(1H)-dicarboxylate | OC=1C=C2CCN(C(C2=CC1)C(=O)OC)C(=O)OC(C)(C)C | C16H21NO5
